US05025031
Sulfamic acid 2-phenoxypropyl ester
The title compound was prepared by procedures of Example 16 from sulfamoyl chloride and 2-phenoxypropanol. The oil obtained was further purified by chromatography (silica gel, eluted with methylene chloride) and recrystallization to give the title compound as a colorless, viscous oil in 35% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-phenoxypropanol | O(C1=CC=CC=C1)C(CO)C | C9H12O2
product | Sulfamic acid 2-phenoxypropyl ester | O(C1=CC=CC=C1)C(COS(N)(=O)=O)C | C9H13NO4S
